US05872118
A solution of ethyl 2-(6-fluoro-1-hydroxy-3,3-dimethyl-1-indanyl)acetate (16 g, 0.0601 mol) in 1N sodium hydroxide (60.1 ml, 0.0601 mol) and ethanol (60 ml) was stirred for 20 h. The solution was concentrated to a small volume by spin evaporation in vacuo, diluted with deionized water (100 ml), and acidified to pH 3 with 1N hydrochloric acid This biphasic solution was extracted with dichloromethane (2×100 ml). The extracts were combined, washed with deionized water (20 ml), dried with magnesium sulfate (Mallinckrodt), and concentrated by spin evaporation in vacuo. The residue was dissolved in dichloromethane (30 ml), cooled to 0° C., and diluted with 400 ml of a cold (0° C.) solution of trifluoroacetic acid (45 g, Aldrich) in dichloromethane (400 ml). After 15 min. the solution was concentrated by spin evaporation in vacuo and the residue was crystallized by adding hexanes to give 9.23 g (70%) of (E)-2-(6-fluoro-3,3-dimethyl-1-indanylidene)acetic acid as a white crystalline solid, m.p., 202°-203.5° C.;

reactant | ethyl 2-(6-fluoro-1-hydroxy-3,3-dimethyl-1-indanyl)acetate | 0.0601 mol, 16 g | FC1=CC=C2C(CC(C2=C1)(O)CC(=O)OCC)(C)C | C15H19FO3
reactant | sodium hydroxide | 0.0601 mol, 1N, 60.1 ml | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | (E)-2-(6-fluoro-3,3-dimethyl-1-indanylidene)acetic acid | 9.23 g, 70% | FC1=CC=C2C(C/C(/C2=C1)=C\C(=O)O)(C)C | C13H13FO2
